US05447957
b) Methyl 2-(2-aminophenoxy)benzoate
Methyl 2-(2-nitrophenoxy)benzoate (540 mg, 0.00198 mol) was dissolved in ethyl acetate (20 mL) and palladium on carbon catalyst (270 mg) was added. The mixture was hydrogenated at 57 psi for 2 h. The catalyst was filtered and the solvents were evaporated to yield the title compound. 1H NMR (250 MHz, CDCl3) δ7.83 (dd, 1H), 7.41 (m, 1H), 7.10 (m, 1H), 6.97 (m, 2H), 6.82 (m, 2H), 6.69 (m, 1H).

reactant | Methyl 2-(2-nitrophenoxy)benzoate | 0.00198 mol, 540 mg | [N+](=O)([O-])C1=C(OC2=C(C(=O)OC)C=CC=C2)C=CC=C1 | C14H11NO5
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 270 mg | [Pd] | Pd
product | Methyl 2-(2-aminophenoxy)benzoate | NC1=C(OC2=C(C(=O)OC)C=CC=C2)C=CC=C1 | C14H13NO3
